US07435837B2
Treatment of (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.0 g, 5.21 mmol), 2-methylphenyl boronic acid (1.06 g, 7.82 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.205 g, 0.261 mmol), and potassium carbonate (1.80 g, 13.04 mmol) generally according to the procedure described for Intermediate 37 provided 1.41 g (69%) of (±)-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a yellow oil. Rf=0.42 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C23H22O4S: C, 70.03; H, 5.62. Found: C, 69.70; H, 5.45.

reactant | (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 5.21 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)Br | C16H15BrO4S
reactant | 2-methylphenyl boronic acid | 7.82 mmol, 1.06 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 13.04 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.261 mmol, 0.205 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.41 g, 69% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2)C | C23H22O4S
